US07968573B2
A mixture of 0.50 g of 1-(3-chloro-2-pyridinyl)-5-mercapto-1H-pyrrole-2-carbaldehyde, 0.36 g of methyl iodide, 0.43 g of potassium carbonate and 50 ml of N,N-dimethylformamide was stirred at room temperature for 1 day Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.34 g of 1-(3-chloro-2-pyridinyl)-5-methylthio-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 1-(3-chloro-2-pyridinyl)-5-mercapto-1H-pyrrole-2-carbaldehyde | 0.50 g | ClC=1C(=NC=CC1)N1C(=CC=C1S)C=O | C10H7ClN2OS
reactant | methyl iodide | 0.36 g | CI | CH3I
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-(3-chloro-2-pyridinyl)-5-methylthio-1H-pyrrole-2-carbaldehyde | 0.34 g | ClC=1C(=NC=CC1)N1C(=CC=C1SC)C=O | C11H9ClN2OS
